US08981085B2
4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine (2.00 g, 6.84 mmol) in THF (20 mL) was added to s-BuLi (12.5 mL, 15.0 mmol, 1.4M in cyclohexane) at −78° C. for 30 minutes. N-Fluoro-N-(phenylsulfonyl)benzenesulfonamide (5.39 g, 17.1 mmol) in THF (15 mL) was added, and it was stirred at −78° C. for 20 minutes. A saturated ammonium chloride solution (20 mL) was added and extracted with hexanes (50 mL), washed with brine, and dried over sodium sulfate. After removal of the solvent, the residue was dissolved in THF (10 mL), and TBAF (6.84 mL, 6.84 mmol) in THF (6.84 mL, 6.84 mmol) was added. The reaction was stirred at room temperature for 10 minutes, and water (20 mL) and ethyl acetate (30 mL) were added. The organic layer was separated, washed with brine and dried over sodium sulfate. After removal of the solvent, the residue was purified by chromatography (ethyl acetate) to give 4,5-difluoro-1H-pyrrolo[2,3-b]pyridine (0.63 g, 60% yield) as a solid. LCMS (APCI+) m/z 155.1 (M+H)+.

reactant | 4-fluoro-1-(triisopropylsilyl)-1H-pyrrolo[2,3-b]pyridine | 6.84 mmol, 2.00 g | FC1=C2C(=NC=C1)N(C=C2)[Si](C(C)C)(C(C)C)C(C)C | C16H25FN2Si
reactant | s-BuLi | 15.0 mmol, 1.4M, 12.5 mL | [Li]C(C)CC
reactant | N-Fluoro-N-(phenylsulfonyl)benzenesulfonamide | 17.1 mmol, 5.39 g | FN(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C12H10FNO4S2
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | TBAF | 6.84 mmol, 6.84 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | THF | 6.84 mmol, 6.84 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 20 mL | O | H2O
product | 4,5-difluoro-1H-pyrrolo[2,3-b]pyridine | 0.63 g, 60% yield | FC1=C2C(=NC=C1F)NC=C2 | C7H4F2N2
